US03952017
Preparation of 1-methyl-10,11-dihydro-5-(3-dimethylaminopropylidene)-5H-dibenzo[a,d]cycloheptene
10 g. of Gilman alloy are covered with 30 ml. of dry ether and treated with 0.5 ml. of methyl iodide. After the vigorous reaction has subsided somewhat, 40 ml. of 1-chloro-3-dimethylaminopropane in 120 ml. of dry ether are added dropwise in such a way that the reaction mixture is maintained at boiling. The mixture is heated at 45° C. under reflux conditions for an additional 3 hours, then cooled with ice water and treated dropwise over a period of one hour with a solution of 21.8 g. of 1-methyl-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one (J. Med. Pharm. Chem. 4, 335-49, 1961) in 400 ml. of dry ether. Subsequently, the mixture is stirred at 45° C. under reflux conditions for an additional 10 hours, then cooled with ice water and decomposed with a cold saturated ammonium chloride solution. The organic layer is removed by separation. The aqueous phase is shaken twice with 100 ml. portions of ether and the combined ether extracts are dried over sodium sulfate and evaporated. The residual 1-methyl-10,11-dihydro-5-(3-dimethylaminopropyl)-5-hydroxy-5H-dibenzo[a,d]cycloheptene has a melting point of 154°-155° C. after recrystallization from high-boiling petroleum ether.

reactant | methyl iodide | CI | CH3I
reactant | 1-chloro-3-dimethylaminopropane | ClCCCN(C)C | C5H12ClN
reactant | 1-methyl-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one | CC1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=O | C16H14O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | 1-methyl-10,11-dihydro-5-(3-dimethylaminopropylidene)-5H-dibenzo[a,d]cycloheptene | CC1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CCCN(C)C | C21H25N
